US08076345B2
A) 2-(4-(1-(4-chloro-3-(methylsulfonyl)phenyl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (250 mg, 0.88 mmol) and 1-(4-chloro-3-(methylsulfonyl)phenyl)ethanamine (300 mg, 1.28 mmol) in acetonitrile (2 mL) and N,N-diisopropylethylamine (700 μL) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to afford a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.88 mmol, 250 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | 1-(4-chloro-3-(methylsulfonyl)phenyl)ethanamine | 1.28 mmol, 300 mg | ClC1=C(C=C(C=C1)C(C)N)S(=O)(=O)C | C9H12ClNO2S
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | 700 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-(4-(1-(4-chloro-3-(methylsulfonyl)phenyl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | ClC1=C(C=C(C=C1)C(C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C)S(=O)(=O)C | C24H24ClN5O2S
